US09371321B2
Step A: 4-Chloro-6-ethyl-2-(methylthio)pyrimidine-5-carbonitrile
To a 100 mL round-bottom flask was added 4,6-dichloro-2-(methylthio)pyrimidine-5-carbonitrile (300 mg, 1.363 mmol) in tetrahydrofuran (10 mL). The reaction mixture was cooled to −78° C. Ethylmagnesium bromide in ether (3.0 M, 0.454 mL, 1.363 mmol) was added and the reaction mixture was allowed to stir for 1 hour at room temperature. LCMS indicated the reaction was complete. The reaction mixture was quenched with a few drops saturated aqueous NH4Cl and allowed to warm to room temperature. The reaction mixture was diluted with EtOAc and washed with saturated aqueous NH4Cl (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The product was purified by column chromatography (ISCO 12 g, 20-100% EtOAc/hexane gradient) to give the title compound as a pasty yellow solid. ESI-MS m/z [M+H]+ calc'd for C8H8ClN3S, 214. found 214.

reactant | 4,6-dichloro-2-(methylthio)pyrimidine-5-carbonitrile | 1.363 mmol, 300 mg | ClC1=NC(=NC(=C1C#N)Cl)SC | C6H3Cl2N3S
reactant | Ethylmagnesium bromide | C(C)[Mg]Br
reactant | ether | 1.363 mmol, 3.0 M, 0.454 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Chloro-6-ethyl-2-(methylthio)pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)CC)SC | C8H8ClN3S
